US04847305
2,6-bis(1,1-dimethylethyl)-4-(pentylthio)phenol
To a solution of freshly prepared sodium ethoxide (ca. 17 mmole) in ethanol (12 ml) was added with stirring 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (4.0 g, 17 mmole). After one hour, 1-chloropentane (4 ml, ca. 34 mmole) was added and the reaction mixture was stirred at room temperature for 20 hours. Water was added, and the mixture was extracted with diethyl ether. The ether layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil. Chromatography on silica gel and recrystallization from pentane gave the title compound, m.p. 54°-55°.

reactant | sodium ethoxide | ca. 17 mmole | [O-]CC.[Na+]
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 17 mmole, 4.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 1-chloropentane | ca. 34 mmole, 4 ml | ClCCCCC | C5H11Cl
reactant | Water | O | H2O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2,6-bis(1,1-dimethylethyl)-4-(pentylthio)phenol | CC(C)(C)C1=C(C(=CC(=C1)SCCCCC)C(C)(C)C)O | C19H32OS
